US06774138B2
2-Bromo-1,3-thiazole (980 mg, 6.0 mmol) and CuI (230 mg, 1.2 mmol) were combined in DME (15 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (4.2 mL, 30 mmol) and PdCl2(PPh3)2 (420 mg, 0.60 mmol) were added, then 3-chloro-5-ethynylpyridine (820 mg, 19 mmol) was added dropwise. After stirring at ambient temperature for 16 h, GC/MS analysis showed starting material remaining. The reaction mixture was heated at reflux for 2 h. The mixture was filtered through Celite™, the filter pad was washed thoroughly with ethyl acetate, and the combined filtrates were concentrated in vacuo. The residue was dissolved in ethyl acetate (100 mL), and washed with water (100 mL), brine (100 mL), dried over Na2SO4 filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane then 9:1 hexane:ethyl acetate to afford 3-chloro-5-(1,3-thiazol-2-ylethynyl)pyridine which contained some dimer. This material was crystallized from hot ethyl acetate to afford 3-chloro-5-(1,3-thiazol-2-ylethynyl)pyridine (300 mg 23% yield) as light orange crystals M.p. 124-125° C. 1H NMR (CDCl3, 300 MHz) δ 8.70 (d, J=1.5 Hz, 1H), 8.59 (d, J=3.0 Hz, 1H), 7.93 (d, J=3.0 Hz, 1H), 7.88 (t, J=2.0 Hz, 1H), 7.48 (d, J=3.0 Hz, 2H). MS (ESI) 221.1 (M++H).

reactant | 2-Bromo-1,3-thiazole | 6.0 mmol, 980 mg | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 30 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-5-ethynylpyridine | 19 mmol, 820 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | CuI | 1.2 mmol, 230 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.60 mmol, 420 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-chloro-5-(1,3-thiazol-2-ylethynyl)pyridine | ClC=1C=NC=C(C1)C#CC=1SC=CN1 | C10H5ClN2S
